US05705499
2-chloro-5,11-dihydro-11-ethyl-8-(2-methylpyrid-4-yloxy)methyl-5-methyl-6H-dipyrido[3,2-b;2',3'-e][1,4]diazepin-6-one
Using a procedure analogous to that described in Example 91, except potassium hydride was employed as the base instead of sodium hydride, the title compound, m.p. 163°-164° C., was prepared from 2-chloro-5,11-dihydro-11-ethyl-8-hydroxymethyl-5-methyl-6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one and 4-nitro-2-picoline. The yield was 69% of theory.

reactant | potassium hydride | [H-].[K+]
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-5,11-dihydro-11-ethyl-8-hydroxymethyl-5-methyl-6H-dipyrido-[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CO)=O)C | C15H15ClN4O2
reactant | 4-nitro-2-picoline | [N+](=O)([O-])C1=CC(=NC=C1)C | C6H6N2O2
product | 2-chloro-5,11-dihydro-11-ethyl-8-(2-methylpyrid-4-yloxy)methyl-5-methyl-6H-dipyrido[3,2-b;2',3'-e][1,4]diazepin-6-one | yield was 69% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)COC3=CC(=NC=C3)C)=O)C | C21H20ClN5O2
